Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ of T1DM, ESRD s/p failed kidney transplant (___) and 
pancreas transplant (___) now on PD, HTN, CAD (s/p DES to LCx 
on DAPT in ___, PVD s/p b/l BKA presents complaining of nausea 
and vomiting. Symptoms have been ongoing for the past 5 days. 
Patient unsure what caused this acute illness. Endorses mild 
diffuse abdominal pain, SOB that began around the same time that 
the n/v began. Denies f/c, diarrhea, CP. No blood in vomit. He 
states that he has been unable to keep any of his medicines 
down, but that he has been getting his peritoneal dialysis 
nightly. He also states that he has been taking all of his 
insulin as prescribed, even when he slowed down PO intake with 
n/v. No recent sick contacts, recent travels, recent illnesses 
or antibiotics. 

In ED initial VS: T 98, P 78, BP 204/115, R 28, 99% RA. HR 
increased into 100s in ED. By time of transfer to the ICU, BP 
and HR had normalized.

Labs notable for Na 128, HCO3 16, uptrended to 21 after 
initiation of insulin gtt. WBC 9.9. BUN 45, Cr 10.4. Trop 1.47, 
downtrended to 1.31 on repeat check, MB 4. LFTs unremarkable. 
VBG 7.39/42. 
 
Patient was given: insulin gtt at 7U/hr, IVF 1L NS, clopidogrel 
75mg, carvedilol 37.5mg, atorvastatin 80mg, ASA 324mg, IV 
lorazepam.  

Imaging notable for: CXR w/ small area of atelectasis associated 
w/ small R pleural effusion but otherwise unremarkable. 

Consults: cardiology consulted re: elevated troponin, thought 
EKG to be consistent w/ LVH w/ strain and unchanged from priors, 
stated that troponin elevated I/s/o dialysis.  

On arrival to the MICU, patient endorses feeling better than 
when he first presented. Denies current n/v, asking to eat. No 
current CP or SOB. Denies f/c at home.  

REVIEW OF SYSTEMS:  as per HPI, otherwise negative
 
Past Medical History:
- Type 1 DM complicated by retinopathy and nephropathy  
 - ESRD s/p failed kidney transplant (___) and pancreas  
 transplant (___) now on nocturnal PD  
 - LUE DVT associated with ___ line ___  
 - R index finger osteomyelitis s/p amputation  
 - Hypertension/Hypertensive Urgency  
 - Hyperlipidemia  
 - Peripheral Vascular Disease s/p B/L BKA (L ___, R ___  
 - TIA in ___ without residual deficits  
 - GERD  
 - Anemia of chronic disease  
 - Depression  
 - Secondary hyperparthyroidism  
 - Vitamin D Deficiency  
 - Tobacco Abuse  
 - Sleep Apnea  
 - Cdiff  
 - CAD s/p DES to LCx ___, cath ___ with moderate 3VD  
 - Chronic leukocytosis  
 - OSA  
 
Social History:
___
Family History:
Type 2 diabetes Paternal Grandfather, ___ Grandmother  
___ disease Father, ___ Grandfather, ___ 
Aunt  
___ cancer ___ Grandfather  
Kidney cancer ___ Grandmother  
Father with hypertension and CAD, mother with HLD, sister with  
hepatitis and thyroid problems. No family history of type 1  
diabetes  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.9, P 89, BP 114/67, R 20, 99% RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: b/l BKAs, L BKA w/ chronic, small superficial ulcer w/ 
black eschar. Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
SKIN: no rashes or lesions other than ulcer described above 
NEURO: motor and sensory grossly intact

DSICHARGE PHYSICAL EXAM:
========================
Vitals: 98.2 PO 154/62 82 18 96 ra 
General: alert, oriented, no acute distress, sitting on corner 
of
bed watching TV
HEENT: sclera anicteric, MMM, EOMI
Neck: supple, no LAD  
Lungs: CTAB, no wheezes/rales/rhonchi 
CV: RRR, normal S1 S2, no m/r/g
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding
GU: PD catheter in place w/o surrounding erythema
Ext: s/p b/l BKA
Neuro: CNII-XII grossly normal
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:22PM   PLT COUNT-656*#
___ 12:22PM   NEUTS-63.6 ___ MONOS-10.5 EOS-3.7 
BASOS-1.8* IM ___ AbsNeut-6.27*# AbsLymp-1.91 
AbsMono-1.04* AbsEos-0.36 AbsBaso-0.18*
___ 12:22PM   WBC-9.9 RBC-3.31* HGB-10.1* HCT-32.0* MCV-97 
MCH-30.5 MCHC-31.6* RDW-14.0 RDWSD-49.4*
___ 12:39PM   ALBUMIN-3.0* CALCIUM-8.2* PHOSPHATE-6.6* 
MAGNESIUM-1.8
___ 12:39PM   LIPASE-22
___ 12:39PM   LIPASE-22
___ 12:39PM   ALT(SGPT)-8 AST(SGOT)-10 CK(CPK)-36* ALK 
PHOS-79 TOT BILI-0.2
___ 12:39PM   estGFR-Using this
___ 12:39PM   GLUCOSE-341* UREA N-45* CREAT-10.4*# 
SODIUM-128* POTASSIUM-4.4 CHLORIDE-85* TOTAL CO2-16* ANION 
GAP-31*
___ 03:56PM   CALCIUM-7.8* PHOSPHATE-7.5* MAGNESIUM-1.8
___ 03:56PM   cTropnT-1.31*
___ 03:56PM   CK-MB-3
___ 03:56PM   GLUCOSE-463* UREA N-46* CREAT-10.3* 
SODIUM-128* POTASSIUM-4.8 CHLORIDE-87* TOTAL CO2-21* ANION 
GAP-25*
___ 04:03PM   O2 SAT-74
___ 04:03PM   ___ PO2-44* PCO2-42 PH-7.39 TOTAL CO2-26 
BASE XS-0
___ 07:46PM   PLT COUNT-421*
___ 07:46PM   WBC-9.0 RBC-2.72* HGB-8.0* HCT-25.5* MCV-94 
MCH-29.4 MCHC-31.4* RDW-13.9 RDWSD-47.0*
___ 07:46PM   CALCIUM-8.3* PHOSPHATE-6.5* MAGNESIUM-1.9
___ 07:46PM   GLUCOSE-141* UREA N-46* CREAT-10.3* 
SODIUM-133 POTASSIUM-4.0 CHLORIDE-93* TOTAL CO2-22 ANION GAP-22*
___ 08:05PM   LACTATE-1.9
___ 08:05PM   ___ PO2-29* PCO2-49* PH-7.37 TOTAL 
CO2-29 BASE XS-0

DISCHARGE LABS:
___ 09:38AM BLOOD WBC-12.2* RBC-2.41* Hgb-7.3* Hct-22.9* 
MCV-95 MCH-30.3 MCHC-31.9* RDW-13.8 RDWSD-47.6* Plt ___
___ 09:38AM BLOOD Plt ___
___ 09:38AM BLOOD Glucose-169* UreaN-54* Creat-8.9* Na-132* 
K-4.7 Cl-94* HCO3-24 AnGap-19
___ 09:38AM BLOOD ALT-9 AST-10 AlkPhos-70 TotBili-0.2
___ 09:38AM BLOOD Lipase-78*
___ 09:38AM BLOOD cTropnT-0.74*
___ 09:38AM BLOOD Calcium-8.3* Phos-4.9* Mg-2.3
___ 10:00AM BLOOD pO2-55* pCO2-48* pH-7.34* calTCO2-27 Base 
XS-0 Comment-GREEN TOP
___ 10:00AM BLOOD Lactate-1.3

MICROBIOLOGY:
=============
___ DIALYSIS FLUID GRAM STAIN - FINAL - No PMNs/No 
Microorganisms
___ BLOOD CULTURE - FINAL - ngtd

IMAGING:
========
CXR (___):
Small right pleural effusion with adjacent atelectasis.

Echo ___:
Conclusions
 The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild to moderate global left ventricular 
hypokinesis (LVEF = 40 %). [Intrinsic left ventricular systolic 
function is likely more depressed given the severity of valvular 
regurgitation.] Tissue Doppler imaging suggests an increased 
left ventricular filling pressure (PCWP>18mmHg). Doppler 
parameters are most consistent with Grade II (moderate) left 
ventricular diastolic dysfunction. The right ventricular free 
wall thickness is normal. Right ventricular chamber size is 
normal with borderline normal free wall function. The diameters 
of aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. The mitral valve leaflets are 
structurally normal. Moderate (2+) mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined.
 Compared with the prior study (images reviewed) of ___, 
the findings are similar.
 

 
Brief Hospital Course:
___ of T1DM, ESRD s/p failed kidney transplant (___) and 
pancreas transplant (___) now on PD, HTN, CAD (s/p DES to LCx 
on DAPT in ___, PVD s/p b/l BKA who p/w n/v, elevated glucose, 
anion gap metabolic acidosis c/f DKA.

=================  
ACTIVE ISSUES  
=================
# Gap Metabolic Acidosis concerning for DKA: Patient had had 
multiple admissions in the past for DKA and a pattern of 
non-compliance. However, patient stated he had been compliant w/ 
insulin at home. There were no recent illnesses or stresses that 
he reported and no recent alcohol use. Upon review of 
medications with ___ Diabetes specialists, however, patient 
stated that he had only been taking novolog and also 
intraperitoneal insulin (i.e. not taking any long-acting 
insulin). On admission, patient had an anion gap metabolic 
acidosis w/ glucose 341 upon arrival that uptrended to 463 in 
the ED before being placed on insulin gtt. Patient was anuric, 
so urine ketones were not checked. Patient was restarted on SC 
insulin upon arrival to ICU floor w/ end therapy for insulin 
being detemir 4U at breakfast and 6U at bedtime, novolog 5U w/ 
meals, novolog sliding scale w/ meals. He also will receive 18U 
of novolin insulin in his PD fluid. ___ clarified his insulin 
regimen prior to discharge. Patient notably had some abdominal 
pain and nausea the day of discharge, but his laboratory work 
was unremarkable except for mild leukocytosis.  

# Hypertensive emergency, type II NSTEMI: Trop was elevated to 
1.47 upon arrival, downtrended subsequently. Patient had a poor 
baseline of known CAD and is s/p DES to ___ in ___. Has ESRD 
but baseline trops 0.4-0.5. EKGs unchanged from prior. Most 
likely demand ischemia I/s/o hypovolemia ___ DKA and/or 
contribution from hypertensive emergency. Cards saw patient in 
ED and said no intervention or heparin gtt at this time. 
Continued home ASA/Plavix, Lipitor 80 and Coreg. Echo 
demonstrated no marked changes from his prior. 

# HTN Urgency/Emergency: Presented w/ sBP in 200s, improved to 
170s in ED. Had a trop leak as above, thought to be possibly 
demand ischemia ___ to hypertension. By the time he arrived to 
the ICU, his BP had normalized. Patient stated he was not able 
to keep PO meds down at home given n/v, hence the elevated BP 
upon arrival. Patient just had one episode of SBP > 180 on the 
day prior to his discharge, though this improved once he took 
his oral home blood pressure meds.

# Anemia: Patient demonstrated a downtrending Hb from prior 
without evidence of hemolysis or bleeding. He did not require 
transfusion. He stated he was due for his Aranesp infusion, 
which was originally to be ___. His peritoneal dialysis team 
including Dr. ___ was contacted for follow-up. On review of 
his CBCs, it was noted that he has had a long-standing anemia 
with some predominance of myeloid precursors. Hematology 
consultation as outpatient is suggested. 

# Hyponatremia: likely pseudohyponatremia given elevated 
glucose. Resolved w/ tx.

# ESRD on PD: s/p failed kidney and pancreas transplant. Renal 
consulted to continue PD in house. Continued home sevalamir, 
nephrocaps, and prednisone. He noted that after peritoneal 
dialysis he had stomach pain and difficulty taking his home 
meds. His outpatient nephrologist was contacted regarding 
management strategies for this, such as leaving in 100cc to 
prevent pain.

=================  
CHRONIC ISSUES  
================= 
# Anemia: at baseline, monitored
# Depression: Continued home celexa and Wellbutrin 
# GERD: continued home PPI
# Gastroparesis: continued home reglan

Transitional issues: 
- patient notably refused ___ on discharge.
- patient has blood and peritoneal cultures that require 
follow-up.
- Patient is being discharged on an insulin regimen of novolog 5 
units at breakfast, lunch, and dinner, with 4 units of levemir 
at breakfast and 6 units at dinner. He also injects 18 units of 
novolin into 6L 1.5% peritoneal dialysis bag. He was written for 
new supplies.
- Patient had ongoing presence of anemia on discharge, with Hb 
downtrending from 10 to low 7s this admission. Seemed most 
consistent with downtrend in the setting of inflammation, with 
patient being due for his outpatient Aranesp. On review of his 
CBCs, however, it was noted that he has had a long-standing 
anemia with some predominance of myeloid precursors. Hematology 
consultation as outpatient is suggested. Dr. ___ was 
contacted re: setting up outpatient PD team to provide Aranesp. 
- his abdominal pain mostly occurs toward the end of his PD 
sessions; Nephrology may consider leaving residual fluid to 
reduce the discomfort of the final fluid pull of his PD, as 
suggested by inpatient Nephrology consultation
- Patient had slight leukocytosis on discharge labs. He should 
ideally receive follow-up sets of labs including CBC within one 
week.
# Communication: HCP: ___ (MOTHER)
Phone number: ___
Cell phone: ___
# Code: DNR/DNI (confirmed)

Greater than 30 minutes were spent on this patient's discharge 
day management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Calcium Acetate ___ mg PO TID W/MEALS 
5. Carvedilol 37.5 mg PO BID 
6. Citalopram 20 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Lisinopril 40 mg PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. PredniSONE 5 mg PO DAILY 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
12. Vitamin B Complex w/C 1 TAB PO DAILY 
13. ___ (B complex-vitamin C-folic acid) 0.8 mg oral DAILY 

14. Metoclopramide 5 mg PO QIDACHS 
15. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  Insulin Syringe (insulin syringe-needle U-100) 0.5 mL 29 
gauge x ___ miscellaneous qd 
please provide 30 syringes 
RX *insulin syringe-needle U-100 [Advocate Syringes] 29 gauge x 
___ as directed  Disp #*30 Syringe Refills:*0 
2.  levemir 4 Units Breakfast
levemir 6 Units Bedtime
novolog 5 Units Breakfast
novolog 5 Units Lunch
novolog 5 Units Dinner
Insulin SC Sliding Scale using novolog Insulin
RX *insulin detemir [Levemir FlexTouch] 100 unit/mL (3 mL) AS 
DIR 4 Units before BKFT; 6 Units before BED; Disp #*2 Syringe 
Refills:*0
RX *insulin aspart [Novolog Flexpen] 100 unit/mL AS DIR as dir 
Disp #*3 Syringe Refills:*0 
3.  lancets 32 gauge subcutaneous 10x per day 
please provide 300 lancets 
RX *lancets 30 gauge as directed  Disp #*300 Each Refills:*0 
4.  NovoLIN R (insulin regular human) 100 unit/mL 
intraperitoneal as dir 
RX *insulin regular human [Novolin R] 100 unit/mL 18 units IV as 
directed Disp #*3 Vial Refills:*0 
5.  Pen Needle (pen needle, diabetic) 32 gauge x ___ 
miscellaneous 5 per day 
please provide 150 needles 
RX *pen needle, diabetic ___ Tier Unifine Pentips] 32 gauge X 
___ as directed  Disp #*150 Needle Free Injection Refills:*0 
6.  amLODIPine 5 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
10.  Calcium Acetate ___ mg PO TID W/MEALS  
11.  Carvedilol 37.5 mg PO BID  
12.  Citalopram 20 mg PO DAILY  
13.  Clopidogrel 75 mg PO DAILY  
14.  Lisinopril 40 mg PO DAILY  
15.  Metoclopramide 5 mg PO QIDACHS  
16.  Pantoprazole 40 mg PO Q12H  
17.  PredniSONE 5 mg PO DAILY  
18.  ___ (B complex-vitamin C-folic acid) 0.8 mg oral 
DAILY  
19.  sevelamer CARBONATE 1600 mg PO TID W/MEALS  
20.Outpatient Lab Work
Labs: CBC with diff.
Name/contact: ___. Phone: ___. Fax: 
___. 
ICD-10: D63.1, anemia in chronic kidney disease.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Diabetic ketoacidosis
Hypertensive emergency

SECONDARY DIAGNOSIS
ESRD on peritoneal dialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were in the 
hospital.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were admitted due to electrolyte abnormalities, very high 
blood pressure and high blood sugars
- You were seen by the ___ physicians who helped make insulin 
adjustments to control your blood sugar. Please follow both 
their long acting and short acting insulin regimen 
recommendations as prescribed.
- We think your high blood pressures caused some strain on your 
heart, but there is no sign of permanent damage
- We did an extensive evaluation to find a trigger for your 
symptoms, but unfortunately could not find one, so we believe it 
may be related to not taking any long-acting insulin at home

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
- Please resume your normal PD schedule
- Please follow-up with your usual outpatient providers
- ___ take your insulin injections and peritoneal insulin as 
directed.
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

We wish you the best!
- Your ___ Care Team
 
Followup Instructions:
___